US09315521B2
To a solution of 1-(5-methyl-1,3-thiazol-4-yl)ethan-1-ol (1.0 g, 7.0 mmol) in anhydrous carbon tetrachloride (50 mL) was added recrystallized 1-bromopyrrolidine-2,5-dione (1.4 g, 7.7 mmol) and benzoyl benzenecarboperoxoate (170 mg, 0.7 mmol). The mixture was stirred at reflux for 5 hours. After cooling to room temperature, the solid material was removed by filtration. The filtrate was recovered and evaporated. The residue was dried in vacuo, affording 1-[5-(bromomethyl)-1,3-thiazol-4-yl]ethan-1-one (615 mg, 40%). The product was used for the next step without further purification.

reactant | 1-(5-methyl-1,3-thiazol-4-yl)ethan-1-ol | 7.0 mmol, 1.0 g | CC1=C(N=CS1)C(C)O | C6H9NOS
reactant | 1-bromopyrrolidine-2,5-dione | 7.7 mmol, 1.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl benzenecarboperoxoate | 0.7 mmol, 170 mg | C1(=CC=CC=C1)C(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[5-(bromomethyl)-1,3-thiazol-4-yl]ethan-1-one | 615 mg, 40% | BrCC1=C(N=CS1)C(C)=O | C6H6BrNOS
